US04175203
Preparation of 4-(4-Acetyl-8-hydroxy-12-methyltridecyl)benzoic Acid
This compound is prepared by the method described in Example 1 for 4-(4-acetyl-8-hydroxytridecyl)benzoic acid except that in Step D an equivalent quantity of 1-chloro-4-acetoxy-8-methylnonane is substituted for 1-chloro-4-acetoxynonane. The intermediates and final product thus obtained are, Step D: ethyl 4-(4-acetyl-4-tert-butoxycarbonyl-8-acetoxy-12-methyltridecyl)benzoate; Step E: ethyl 4-(4-acetyl-8-acetoxy-12-methyltridecyl)benzoate; and Step F: 4-(4-Acetyl-8-hydroxy-12-methyltridecyl)benzoic acid.

reactant | 4-(4-acetyl-8-hydroxytridecyl)benzoic acid | C(C)(=O)C(CCCC1=CC=C(C(=O)O)C=C1)CCCC(CCCCC)O | C22H34O4
reactant | 1-chloro-4-acetoxy-8-methylnonane | ClCCCC(CCCC(C)C)OC(C)=O | C12H23ClO2
reactant | 1-chloro-4-acetoxynonane | ClCCCC(CCCCC)OC(C)=O | C11H21ClO2
product | 4-(4-Acetyl-8-hydroxy-12-methyltridecyl)benzoic Acid | C(C)(=O)C(CCCC1=CC=C(C(=O)O)C=C1)CCCC(CCCC(C)C)O | C23H36O4
